US08084442B2
Synthesis of (3,4-dichlorophenyl)phenylpyrrolidin-3-ylamine dihydrochloride
An acetic acid solution (15 ml) containing 3-oxopyrrolidine-1-carboxylic acid tert-butyl ester (0.67 g) and (3,4-dichlorophenyl)phenylamine (0.94 g) was stirred at room temperature over night. To the mixture was added 1.5 g of sodium triacetoxyborohydride, followed by stirring at room temperature for 8 hours. Dichloromethane was added to the reaction solution and washed with water, followed by drying over magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was then purified by silica gel column chromatography (n-hexane:ethyl acetate=20:1). The solvent was distilled off from the purified product under reduced pressure, and the residue was dissolved in 1 N hydrochloric acid-ethanol and heated under reflux for one hour. The reaction solution was concentrated to dryness to thereby obtain 50 mg of brown amorphous solid (3,4-dichlorophenyl)phenylpyrrolidin-3-ylamine dihydrochloride.

reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
reactant | 3-oxopyrrolidine-1-carboxylic acid tert-butyl ester | 0.67 g | C(C)(C)(C)OC(=O)N1CC(CC1)=O | C9H15NO3
reactant | (3,4-dichlorophenyl)phenylamine | 0.94 g | ClC=1C=C(C=CC1Cl)NC1=CC=CC=C1 | C12H9Cl2N
reactant | sodium triacetoxyborohydride | 1.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | Dichloromethane | ClCCl | CH2Cl2
product | (3,4-dichlorophenyl)phenylpyrrolidin-3-ylamine dihydrochloride | 50 mg | Cl.Cl.ClC=1C=C(C=CC1Cl)N(C1CNCC1)C1=CC=CC=C1 | InChI=1S/C16H16Cl2N2.2ClH/c17-15-7-6-13(10-16(15)18)20(14-8-9-19-11-14)12-4-2-1-3-5-12;;/h1-7,10,14,19H,8-9,11H2;2*1H
